US08895572B2
Step G: (2R)—N-[(6S,8S)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-yl]-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxamide
To a solution of (6S,8S)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-amine (7.0 mg, 0.023 mmol) in N,N-dimethylforinamide (105 μL) was added (2R)-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid (6.5 mg, 0.023 mmol), 1-hydroxy-7-azabenzotriazole (0.3 mg, 2.1 μmol), N-methylmorpholine (2.56 μL, 0.023 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.46 mg, 0.023 mmol). The mixture was stirred 25 min. Water was added, and the mixture was purified by reverse phase chromatography (C-18, 95% water/acetonitrile→15% water/acetonitrile with 0.1% trifluoroacetic acid) giving the title compound (10.5 mg). HRMS 594.1931 (M+1). 1H NMR (500 MHz, DMSO): δ 11.10 (s, 1H); 8.84 (d, J=8.6 Hz, 1H); 8.07 (dd, J=5.3, 1.6 Hz, 1H); 7.83 (s, 1H); 7.79 (d, J=8.0 Hz, 1H); 7.40-7.36 (m, 2H); 7.32-7.28 (m, 2H); 7.22 (dd, J=7.3, 1.6 Hz, 1H); 6.92 (s, 1H); 6.88 (dd, J=7.3, 5.3 Hz, 1H); 4.34 (d, J=7.9 Hz, 1H); 3.80 (t, J=10.3 Hz, 4H); 3.40 (d, J=16.3 Hz, 2H); 3.19 (dd, J=16.4, 3.5 Hz, 2H); 2.33-2.29 (m, 2H).

reactant | (6S,8S)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-amine | 0.023 mmol, 7.0 mg | FC1=C(C=CC=C1F)[C@@H]1C[C@@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C15H14F5N3
reactant | (2R)-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid | 0.023 mmol, 6.5 mg | O=C1[C@]2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)C(=O)O | C16H12N2O3
reactant | 1-hydroxy-7-azabenzotriazole | 2.1 μmol, 0.3 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 0.023 mmol, 2.56 μL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.023 mmol, 4.46 mg | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
product | (2R)—N-[(6S,8S)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-yl]-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxamide | 10.5 mg | FC1=C(C=CC=C1F)[C@@H]1C[C@@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)C=2C=C1C[C@]3(C(NC4=NC=CC=C43)=O)CC1=CC2 | C31H24F5N5O2
